US08193207B2
Lithium bis(trimethylsilyl)amide (LiHMDS) in THF (1.0 M, 45 mL) was added to a solution of 1-benzyl 4-methyl piperidine-1,4-dicarboxylate (10.0 g, 0.0360 mol) at −78° C. The reaction mixture was slowly warmed to −50° C. and kept at this temperature for 10 min, and then re-cooled to −78° C. 3-Iodo-1-propene (4.95 mL, 0.0541 mol) was added slowly. After the addition, the mixture was allowed to warm slowly to room temperature and kept at room temperature for 3 hours. The mixture was carefully quenched (the pH was adjusted to 4) with 1N HCl solution, and ethyl acetate (200 mL) was added. The organic layer was separated and washed with water, NaHCO3 (7.5%), brine, dried over MgSO4, and filtered. The filtrate was concentrated. The residue was purified by flash chromatography with 20% ethyl acetate in hexane to give 1-benzyl 4-methyl 4-allylpiperidine-1,4-dicarboxylate (10.4 g, 90.9%).

reactant | Lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-benzyl 4-methyl piperidine-1,4-dicarboxylate | 0.0360 mol, 10.0 g | N1(CCC(CC1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C15H19NO4
reactant | 3-Iodo-1-propene | 0.0541 mol, 4.95 mL | ICC=C | C3H5I
solvent | THF | 1.0 M, 45 mL | C1CCOC1 | C4H8O
product | 1-benzyl 4-methyl 4-allylpiperidine-1,4-dicarboxylate | 10.4 g, 90.9% | C(C=C)C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C18H23NO4
